US06372764B1
1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-carboxypyrrolidine
A mixture of 0.126 g (0.28 mmol) of 1-(1-naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-hydroxymethyl pyrrolidine, 0.18 g (0.85 mmol) of NaIO4, and 0.0029 g (0.014 mmol) of RuCl3.3 H2O in 2 mL of CCl4, 3 mL of H2O and 2 mL of CH3CN was stirred at rt for 1 h. The reaction mixture was partitioned between CH2Cl2 and H2O. The organic fraction was dried over Na2SO4, filtered and the filtrate was concentrated to give the title compound. 1H NMR (key peaks) (CDCl3) δ7.81-7.88 (m, 3H), 7.43-7.74 (m, 4H), 7.11-7.14 tm, 2H), 6.97 (t, 2H, J=8.0 Hz), Mass Spectrum (ESI) m/e=461 (M+1).

reactant | 1-(1-naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-hydroxymethyl pyrrolidine | 0.28 mmol, 0.126 g | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)CO)CN1CCC(CC1)C1=CC=C(C=C1)F | C28H31FN2O2
reactant | H2O | 3 mL | O | H2O
solvent | CCl4 | 2 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | 1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-carboxypyrrolidine | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)C(=O)O)CN1CCC(CC1)C1=CC=C(C=C1)F | C28H29FN2O3
